US09399646B2
Step 2: (E)-4-(1-(1-(Tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)but-1-en-1-yl)benzaldehyde
A mixture of (E)-4-(2-(4-bromophenyl)-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)benzaldehyde (1.1 g, 2.13 mmol), bis(pinacolato)diboron (650 mg, 2.56 mmol), and potassium acetate (471 mg, 4.26 mmol) in 1,4-dioxane (21 mL) was degassed with nitrogen. PdCl2dppf.DCM (174 mg, 0.21 mmol) was added and the resulting mixture was heated to 90° C. overnight. The mixture was cooled to room temperature and poured into ethyl acetate. The organic phase was washed with brine (3×), dried over sodium sulfate, and purified by flash chromatography on silica gel eluting with 0 to 20% ethyl acetate/hexanes to afford 900 mg of the title compound as a greenish foam. 1H NMR (400 MHz, DMSO-d6): δ 9.82 (s, 1H), 8.12 (s, 1H), 7.75 (d, 1H), 7.66 (s, 1H), 7.59 (d, 2H), 7.51 (d, 2H), 7.25 (dd, 1H), 7.19 (d, 2H), 7.09 (d, 2H), 5.86 (dd, 1H), 3.91 (m, 1H), 3.75 (m, 1H), 2.48-2.41 (m, 3H), 2.00 (m, 2H), 1.76 (m, 1H), 1.59 (m, 2H), 1.27 (s, 12H), 0.88 (t, 3H).

reactant | (E)-4-(2-(4-bromophenyl)-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)benzaldehyde | 2.13 mmol, 1.1 g | BrC1=CC=C(C=C1)/C(=C(/C=1C=C2C=NN(C2=CC1)C1OCCCC1)\C1=CC=C(C=O)C=C1)/CC | C29H27BrN2O2
reactant | bis(pinacolato)diboron | 2.56 mmol, 650 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.26 mmol, 471 mg | C(C)(=O)[O-].[K+]
reactant | DCM | 0.21 mmol, 174 mg | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 21 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-4-(1-(1-(Tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)but-1-en-1-yl)benzaldehyde | 900 mg | O1C(CCCC1)N1N=CC2=CC(=CC=C12)\C(=C(/CC)\C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)\C1=CC=C(C=O)C=C1 | C35H39BN2O4
